* Frozen netlist snapshot for record 20260801-140529-3f883e3
* sources    : div23_cell.spice + tb_div23_cell.sp (composed at record time, in this order)
* sha256     : 3b22f67a3674b24754f41c955fc2db2046fa68656a251aefb5463cbf49fe2517 (of this composed text)
* This is a verbatim composition taken at record time. Do not edit.

* ---- design/netlist/div23_cell.spice (sha256 9e9dd4edf6aa484ba125b2547e2ba90b3b951d4f6e54abe972d1825081d3b5b9)
* gf180-pll :: div23_cell -- generated by design/netlist.sh from div23_cell.sch
* xschem XSCHEM V3.4.7; do not edit by hand.
** sch_path: design/div23_cell.sch
.subckt div23_cell CKIN MODIN P CKOUT MODOUT VDD VSS
*.ipin CKIN
*.ipin MODIN
*.ipin P
*.opin CKOUT
*.opin MODOUT
*.iopin VDD
*.iopin VSS
XN3 MODIN P MODOUT SB VDD VSS nand3_3v3
XN2Q QB SB DQN VDD VSS nand2_3v3
XIQ DQN DQ VDD VSS inv_3v3
XFQ DQ CKIN Q QB VDD VSS dff_tg_3v3
XICKO QB CKOUT VDD VSS inv2x_3v3
XN2M MODIN Q NMO VDD VSS nand2_3v3
XIM NMO DMO VDD VSS inv_3v3
XFMO DMO CKIN MODOUT MOB VDD VSS dff_tg_3v3
.ends

* expanding   symbol:  nand3_3v3.sym # of pins=6
** sym_path: design/nand3_3v3.sym
** sch_path: design/nand3_3v3.sch
.subckt nand3_3v3 A B C Y VDD VSS
*.ipin A
*.ipin B
*.ipin C
*.opin Y
*.iopin VDD
*.iopin VSS
XMPA Y A VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPB Y B VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPC Y C VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNA Y A NM1 VSS nfet_03v3 L=0.28u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNB NM1 B NM2 VSS nfet_03v3 L=0.28u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNC NM2 C VSS VSS nfet_03v3 L=0.28u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  nand2_3v3.sym # of pins=5
** sym_path: design/nand2_3v3.sym
** sch_path: design/nand2_3v3.sch
.subckt nand2_3v3 A B Y VDD VSS
*.ipin A
*.ipin B
*.opin Y
*.iopin VDD
*.iopin VSS
XMPA Y A VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPB Y B VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNA Y A NMID VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNB NMID B VSS VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  inv_3v3.sym # of pins=4
** sym_path: design/inv_3v3.sym
** sch_path: design/inv_3v3.sch
.subckt inv_3v3 A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XMP Y A VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN Y A VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  dff_tg_3v3.sym # of pins=6
** sym_path: design/dff_tg_3v3.sym
** sch_path: design/dff_tg_3v3.sch
.subckt dff_tg_3v3 D CK Q QB VDD VSS
*.ipin D
*.ipin CK
*.opin Q
*.opin QB
*.iopin VDD
*.iopin VSS
XICKB CK CKB VDD VSS inv_3v3
XICKBB CKB CKBB VDD VSS inv_3v3
XTGMI D NM CKB CKBB VDD VSS tgate_3v3
XIA NM NMA VDD VSS inv_3v3
XIB NMA NMB VDD VSS inv_3v3
XTGMF NMB NM CKBB CKB VDD VSS tgate_3v3
XTGSI NMA NS CKBB CKB VDD VSS tgate_3v3
XIC NS Q VDD VSS inv_3v3
XID Q QB VDD VSS inv_3v3
XTGSF QB NS CKB CKBB VDD VSS tgate_3v3
.ends


* expanding   symbol:  inv2x_3v3.sym # of pins=4
** sym_path: design/inv2x_3v3.sym
** sch_path: design/inv2x_3v3.sch
.subckt inv2x_3v3 A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XMP Y A VDD VDD pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN Y A VSS VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  tgate_3v3.sym # of pins=6
** sym_path: design/tgate_3v3.sym
** sch_path: design/tgate_3v3.sch
.subckt tgate_3v3 A Y GN GP VDD VSS
*.iopin A
*.iopin Y
*.ipin GN
*.ipin GP
*.iopin VDD
*.iopin VSS
XMP Y GP A VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN A GN Y VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

* ---- sim/divider-ratio-cell/testbench/tb_div23_cell.sp (sha256 46c609208249a18a33243d6d50d82559fe56b8338e062fc64049ecb6f3e3e032)
* gf180-pll :: divider-ratio-cell :: single div23_cell testbench (DR-001 Decision 3)
*
* Six independent copies of the SAME cell, so one transient covers every
* single-cell acceptance check at a given PVT point:
*
*   XA  P=0, 50% duty clock          -> divide by 2
*   XB  P=1, 50% duty clock          -> divide by 3   (MODIN tied high, i.e.
*                                       the chain-terminated last-cell case)
*   XC  P=0, 33% duty clock          -> divide by 2
*   XD  P=1, 67% duty clock          -> divide by 3
*   XE  P=1, clock at 1.5x kf        -> divide by 3   (speed margin)
*   XF  P=1, clock at 2.0x kf        -> divide by 3   (speed margin)
*
* XC / XD are the "both edges" check and they are not academic: a cell that is
* swallowing emits a 33%-duty CKOUT, and the 67% case is its complement, so
* every cell downstream of a swallowing cell is clocked by a duty-distorted
* waveform. Division must be exact for both, which is only true if the cell is
* purely rising-edge triggered.
*
* XE / XF quantify first-cell speed margin above the 200 MHz v1 ceiling
* (DR-002 Decision 2 budgets margin to the target, not the 400 MHz stretch);
* at kf = 200 MHz they are the 300 MHz and 400 MHz points.
*
* Running the same deck with a low kf (this manifest's 'rate' sweep axis,
* f200/f010) is the "no minimum clock frequency" check that DR-001 Decision 3
* requires of static CMOS -- it is the property dynamic/TSPC logic was
* rejected for, and it must hold at 125 C where leakage off a would-be
* dynamic node is worst.
*
* Fed by sim/harness: process/temp/vdd_val as usual, plus this manifest's
* 'rate' sweep axis params kf/ktstep/ktstop (derived per point -- see
* sim/harness/README.md "Sweeping beyond the PVT grid").
*
* div23_cell is composed ahead of this fragment by the manifest's 'dut' key
* (design/netlist/div23_cell.spice, exported from design/div23_cell.sch), so
* the frozen netlist snapshot is DUT + this file in one self-contained deck.

.param tvco='1/kf'
.param ttr='tvco/50'
.param ttd='tvco'
* 50% crossing of the first rising clock edge -- the phase reference used to
* extract clk->Q without depending on which edge index the output happens to
* land on.
.param tck0='ttd+ttr/2'

vdd vdd 0 dc 'vdd_val'
vhi hi 0 dc 'vdd_val'
vlo lo 0 dc 0

vck50 ck50 0 pulse(0 'vdd_val' 'ttd' 'ttr' 'ttr' 'tvco/2-ttr' 'tvco')
vck33 ck33 0 pulse(0 'vdd_val' 'ttd' 'ttr' 'ttr' 'tvco/3-ttr' 'tvco')
vck67 ck67 0 pulse(0 'vdd_val' 'ttd' 'ttr' 'ttr' '2*tvco/3-ttr' 'tvco')
vcke  cke  0 pulse(0 'vdd_val' 'ttd' 'ttr/1.5' 'ttr/1.5' 'tvco/3-ttr/1.5' 'tvco/1.5')
vckf  ckf  0 pulse(0 'vdd_val' 'ttd' 'ttr/2' 'ttr/2' 'tvco/4-ttr/2' 'tvco/2')

xa ck50 hi lo ckoa moa vdd 0 div23_cell
xb ck50 hi hi ckob mob vdd 0 div23_cell
xc ck33 hi lo ckoc moc vdd 0 div23_cell
xd ck67 hi hi ckod mdd vdd 0 div23_cell
xe cke  hi hi ckoe moe vdd 0 div23_cell
xf ckf  hi hi ckof mof vdd 0 div23_cell
